US06169093A
(a) 5-Methoxyisoquinoline
To a solution of 5-hydroxyisoquinoline (10 g, 69 mmol) in MeOH (100 ml) was added a solution of sodium methoxide in methanol (30% by weight, 13.8 ml, 72.4 mmol) followed by phenyltrimethylammonium chloride (12.4 g, 72.4 mmol). The reaction mixture was stirred at room temperature for 2 h, after which time it was filtered and the filtrate evaporated under reduced pressure to afford an oil which was dissolved in DMF (50 ml). The reaction mixture was refluxed for 2 h after which time the reaction mixture was evaporated under reduced pressure. The resulting oil was partitioned between CH2Cl2 and 1N aqueous NaOH, the organic layer was washed twice with 1N aqueous NaOH, dried over MgSO4 and evaporated under reduced pressure. The crude product was purified on silica gel eluting with EtOAc/hexane (1/1, v/v) to afford the subtitle compound as a yellow oil (6.1 g, 56%). 1H NMR (CDCl3) δ: 4.05 (3H, s), 7.00 (1H, d), 7.55 (2H, m), 8.02 (1H, d), 8.55 (1H, d), 9.22 (1H, s).

reactant | 5-hydroxyisoquinoline | 69 mmol, 10 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | MeOH | 100 ml | CO | CH4O
catalyst | phenyltrimethylammonium chloride | 72.4 mmol, 12.4 g | [Cl-].C1(=CC=CC=C1)[N+](C)(C)C
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | methanol | 72.4 mmol, 13.8 ml | CO | CH4O
product | 5-Methoxyisoquinoline | 6.1 g, 56% | COC1=C2C=CN=CC2=CC=C1 | C10H9NO
